US07772221B2
Step AU (3). To a solution of 3-amino-3-(3-isopropoxyphenyl)propanoic acid (65 g, 291 mmol) and TFA (100 mL) was added TFAA (100 mL). The mixture was warmed up to 95° C. for 2 h. The solvent was evaporated under high vacuum to afford a sticky oil which was taken into EtOAc (500 mL) and water (300 mL). The organic layer was separated, dried over Na2SO4, and concentrated in vacuo. The residue was purified using silica-gel chromatography (10-30% EtOAc/Hexane) to afford 20 g (23% yield) of 2,2,2-trifluoro-N-(6-isopropoxy-3-oxo-2,3-dihydro-1H-inden-1-yl)acetamide as a white solid.

reactant | 3-amino-3-(3-isopropoxyphenyl)propanoic acid | 291 mmol, 65 g | NC(CC(=O)O)C1=CC(=CC=C1)OC(C)C | C12H17NO3
reactant | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFAA | 100 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | water | 300 mL | O | H2O
product | 2,2,2-trifluoro-N-(6-isopropoxy-3-oxo-2,3-dihydro-1H-inden-1-yl)acetamide | 20 g, 23% yield | FC(C(=O)NC1CC(C2=CC=C(C=C12)OC(C)C)=O)(F)F | C14H14F3NO3
